US08461328B2
1-Benzenesulfonyl-N*4*-(1-benzyl-piperidin-4-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine (500 mg, 1.08 mmol) in TFA (5 mL) was heated to reflux for 5 hours. After cooling the mixture was concentrated under vacuum affording N-[1-benzenesulfonyl-4-(1-benzyl-piperidin-4-ylamino)-1H-pyrrolo[2,3-b]pyridine-5-yl]-2,2,2-trifluoro-acetamide as an orange residue which was used for the next step without further purification. LCMS (Method B, ESI): RT=2.68 min, m+H=558.35.

reactant | 1-Benzenesulfonyl-N*4*-(1-benzyl-piperidin-4-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 1.08 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCN(CC2)CC2=CC=CC=C2)N | C25H27N5O2S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[1-benzenesulfonyl-4-(1-benzyl-piperidin-4-ylamino)-1H-pyrrolo[2,3-b]pyridine-5-yl]-2,2,2-trifluoro-acetamide | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCN(CC2)CC2=CC=CC=C2)NC(C(F)(F)F)=O | C27H26F3N5O3S
